US04661512
(1) benzyl N-(3,4-dimethoxyphenylacetyl)-(L)-pyroglutamate
A solution of 17.5 g (80 mmol) of benzyl (L)-pyroglutamate, prepared according to Example II(1), in 150 ml of benzene is added over 1 hour to a suspension of 3.85 g (80 mmol) of sodium hydride in 15 ml of dry benzene. After stirring for 1 hour at ordinary temperature, a solution of 17.2 g (80 mmol) of 3,4-dimethoxyphenylacetyl chloride in 150 ml of benzene is run in. The mixture is heated at 55° C. for 6 hours and stirred at ordinary temperature for 15 hours, washed with 2×120 ml of water, dried and evaporated. The residue was purified by chromatography on a silica column using a chloroform/acetone mixture as the eluent. Thus gives 60% of a pure waxy product of Rf=0.46 (A).

reactant | benzyl (L)-pyroglutamate | 80 mmol, 17.5 g | N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | sodium hydride | 80 mmol, 3.85 g | [H-].[Na+]
reactant | 3,4-dimethoxyphenylacetyl chloride | 80 mmol, 17.2 g | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | benzyl N-(3,4-dimethoxyphenylacetyl)-(L)-pyroglutamate | COC=1C=C(C=CC1OC)CC(=O)N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C22H23NO6
